US08912324B2
Optically Active Pyrazolylaminoquinazoline
or an isotopic variant thereof; or pharmaceutically acceptable salt, solvate, hydrate, or prodrug thereof. (S)-(4-Fluorophenyl)(4-((5-methyl-1H-pyrazol-3-yl)amino)quinazolin-2-yl)methanol was determined to be the (−) isomer of (4-fluorophenyl)(4-((5-methyl-1H-pyrazol-3-yl)amino)quinazolin-2-yl)methanol by optical rotation analysis.

reactant | (S)-(4-Fluorophenyl)(4-((5-methyl-1H-pyrazol-3-yl)amino)quinazolin-2-yl)methanol | FC1=CC=C(C=C1)[C@H](O)C1=NC2=CC=CC=C2C(=N1)NC1=NNC(=C1)C | C19H16FN5O
reactant | (4-fluorophenyl)(4-((5-methyl-1H-pyrazol-3-yl)amino)quinazolin-2-yl)methanol | FC1=CC=C(C=C1)C(O)C1=NC2=CC=CC=C2C(=N1)NC1=NNC(=C1)C | C19H16FN5O
product | Pyrazolylaminoquinazoline | N1N=C(C=C1)NC1=NC2=CC=CC=C2C=N1 | C11H9N5
